US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(4-hydroxyphenyl)imidazolidin-2-one
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-methoxyphenyl)imidazolidin-2-one (308 mg; 1 mmol; 1 eq.) was dissolved in dry CH2Cl2 (20 ml) under Argon atmosphere and cooled to 0° C. BBr3 (0.285 ml; 3 mmol; 3 eq.) was added dropwise. After complete addition, the mixture was stirred for 1 h at 0° C. and then allowed to warm to room temperature. The reaction was quenched with water and the organic layer was separated. The aqueous layer was neutralized by addition of 1N NaOH. The resulting precipitate was filtered off, dried and used without further purification. Yield: 0.174 g (59.2%); MS m/z: 295.1 [M+H]+; 1H-NMR (400 MHz, DMSO d6): 3.04-3.06 (m, 1H); 3.72-3.77 (m, 1H); 5.30-5.33 (m, 1H); 6.62-6.64 (m, 2H); 6.84 (s, 1H); 7.09-7.11 (m, 2H); 7.17-7.19 (m, 1H); 7.34-7.36 (d, 1H, 3J=8.7 Hz); 7.46 (s, 1H); 8.03 (s, 1H); HPLC(P31/98): rt 6.66 min (100%)

reactant | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-methoxyphenyl)imidazolidin-2-one | 1 mmol, 308 mg, 1 eq. | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC=C(C=C2)OC)=O | C17H16N4O2
reactant | BBr3 | 3 mmol, 0.285 ml, 3 eq. | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(4-hydroxyphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC=C(C=C2)O)=O | C16H14N4O2
